US07091214B2
8-Bromo-1-butyl-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-amine and pyridine-3-boronic acid were coupled according to the general procedure described in Part J of Example 1. Chromatography on silica gel (8%–10% methanol in CH2Cl2 gradient) followed by recrystallization from isopropanol (3×) and chromatography as above afforded 1-butyl-2-ethoxymethyl-8-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine as a white solid, m.p. 220–222° C.

reactant | 8-Bromo-1-butyl-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-amine | BrC1=CC=2C3=C(C(=NC2C=C1)N)N=C(N3CCCC)COCC | C17H21BrN4O
reactant | pyridine-3-boronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 1-butyl-2-ethoxymethyl-8-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine | C(CCC)N1C(=NC=2C(=NC=3C=CC(=CC3C21)C=2C=NC=CC2)N)COCC | C22H25N5O
